US09359338B2
Step 1: Synthesis of 1-methyl-3-(3-nitro-5-(trifluoromethyl)phenoxy)pyrrolidine
Add 3-nitro-5-(trifluoromethyl)phenol (1.6 g, 7.7 mmol), 1-methylpyrrolidin-3-ol (940 mg, 9.3 mmol), triphenylphosphine (3.4 g, 11.6 mmol) in THF (20 mL), stir on ice bath, then add diethyl azodicarboxylate (DEAD, 2.0 g, 11.6 mmol). Stir the mixture at ambient temperature for 15 hrs. Add water (100 mL), then extract the mixture with ethyl acetate (100 mL×3), combine the organic layers and dry over anhydrous sodium sulfate. Filter and concentrate the filtrate to get the crude product. Purify by flash chromatography (silica gel, DCM:MeOH=20:1) to afford the target product (1.5 g, 67%). MS: (M+1): 291.1.

reactant | 3-nitro-5-(trifluoromethyl)phenol | 7.7 mmol, 1.6 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)O | C7H4F3NO3
reactant | 1-methylpyrrolidin-3-ol | 9.3 mmol, 940 mg | CN1CC(CC1)O | C5H11NO
reactant | triphenylphosphine | 11.6 mmol, 3.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 11.6 mmol, 2.0 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-methyl-3-(3-nitro-5-(trifluoromethyl)phenoxy)pyrrolidine | 1.5 g, 67% | CN1CC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C12H13F3N2O3
